US09193719B2
2-Ethyl-6-fluoro-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridine (0.15 g, 0.51 mmol) was suspended in 2-propanol (1.0 mL) in a screw-cap reaction vessel. Hydrazine hydrate (0.12 mL, 2.5 mmol) was added, the reaction vessel was sealed and the mixture was stirred at 90° C. for 18 h. Sat. NaHCO3 (aq) (20 mL) was added and the mixture was extracted wth EtOAc (4×35 mL). The combined organics were dried (Na2SO4) and concentrated in vacuo to afford 2-ethyl-6-hydrazinyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridine (0.15 g, 96%) as a light yellow solid that was used in the next step without further purification. MS (ESI) m/z: 311.2 (M+H+).

reactant | 2-Ethyl-6-fluoro-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridine | 0.51 mmol, 0.15 g | C(C)C1=NC(=CC=C1OC1=CC(=NC=C1)C=1C=NN(C1)C)F | C16H15FN4O
reactant | Hydrazine hydrate | 2.5 mmol, 0.12 mL | O.NN
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 2-ethyl-6-hydrazinyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridine | 0.15 g, 96% | C(C)C1=NC(=CC=C1OC1=CC(=NC=C1)C=1C=NN(C1)C)NN | C16H18N6O
